US07582629B2
4-[(5-cyclohexyl-2-methoxyphenyl)amino]-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 5-cyclohexyl-2-methoxyaniline in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 0.92-1.05 (m, 2H), 1.08-1.33 (m, 3H), 1.41-1.49 (m, 2H), 1.62-1.76 (m, 3H), 2.05-2.15 (m, 1H), 3.38 (s, 3H), 3.70-3.75 (m, 5H), 3.91 (t, 2H), 6.41 (d, 1H), 6.70 (d, 1H), 6.79-6.83 (m, 1H), 7.12-7.22 (m, 4H), 7.24-7.30 (m, 1H), 7.55 (bs, 1H); Mass Spectrum: M+H+ 471.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 5-cyclohexyl-2-methoxyaniline | C1(CCCCC1)C=1C=CC(=C(N)C1)OC | C13H19NO
product | 4-[(5-cyclohexyl-2-methoxyphenyl)amino]-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C1(CCCCC1)C=1C=CC(=C(C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O)OC | C25H30N2O5S
